US07528129B2
7.5c) (R)-2-(4-methoxy-3,5-dimethyl-phenyl)-1-carboxy-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate
A solution of 11.3 mg (0.47 mmol) LiOH*H2O in 8 mL water was added to a solution of 160 mg (0.31 mmol) (R)-2-(4-methoxy-3,5-dimethyl-phenyl)-1-methoxycarbonyl-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate in 15 mL THF and the reaction mixture was stirred for 1 h at RT. The mixture was evaporated down i.vac., the residue was taken up in 150 mL water and acidified with 2 M HCl. The precipitate formed was separated off and dried.

reactant | LiOH | 0.47 mmol, 11.3 mg | [Li+].[OH-]
reactant | (R)-2-(4-methoxy-3,5-dimethyl-phenyl)-1-methoxycarbonyl-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | 0.31 mmol, 160 mg | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@H](CC1=CC(=C(C(=C1)C)OC)C)C(=O)OC)C=CC=C2 | C28H35N3O6
solvent | water | 8 mL | O | H2O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | (R)-2-(4-methoxy-3,5-dimethyl-phenyl)-1-carboxy-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@H](CC1=CC(=C(C(=C1)C)OC)C)C(=O)O)C=CC=C2 | C27H33N3O6
